US07977491B2
Synthesis [1-8]: Synthesis of tetrakis(3-formylphenoxymethyl)methane
5 g of pentaerythrityl tetrabromide, 9.5 g of 3-hydroxybenzaldehyde, 11 g of potassium carbonate, and a catalytic amount of sodium iodide were mixed. Thereto was added dimethylformamide, to conduct reaction at 130° C. for 6 hours. After cooled, water was added thereto, and the thus-precipitated crystal was collected by filtration. Dimethylformamide was added to this crystal, and the resultant solution was filtrated. Then, methanol was added to the filtrate, and the precipitated crystal was collected by filtration (yield amount 6.1 g, and yield 85.6%).

reactant | pentaerythrityl tetrabromide | 5 g | C(C(CBr)(CBr)CBr)Br | C5H8Br4
reactant | 3-hydroxybenzaldehyde | 9.5 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | potassium carbonate | 11 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | tetrakis(3-formylphenoxymethyl)methane | yield 85.6% | C(=O)C=1C=C(OCC(COC2=CC(=CC=C2)C=O)(COC2=CC(=CC=C2)C=O)COC2=CC(=CC=C2)C=O)C=CC1 | C33H28O8
